US08975256B2
8-Hydroxymethyl-7-[2-methoxy-4-(2-methylbenzoyloxy)phenyl]-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 24)
7-(4-Hydroxy-2-methoxyphenyl)-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 3-5, 430 mg, 1.31 mmol) was dissolved in tetrahydrofuran (10 mL), and triethylamine (365 μL, 2.62 mmol) and 2-methylbenzoyl chloride (222 μL, 1.70 mmol) were added thereto successively. After the reaction mixture was stirred at the same temperature for 80 minutes, the reaction mixture was diluted with ethyl acetate (200 mL). The mixture was washed with water (100 mL) and saturated brine (100 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (362 mg) as a colorless solid. (Yield 62%)

reactant | 7-(4-Hydroxy-2-methoxyphenyl)-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.31 mmol, 430 mg | OC1=CC(=C(C=C1)C1=CC=C2NC(C(NC2=C1CO)=O)(C)C)OC | C18H20N2O4
reactant | triethylamine | 2.62 mmol, 365 μL | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 1.70 mmol, 222 μL | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 8-Hydroxymethyl-7-[2-methoxy-4-(2-methylbenzoyloxy)phenyl]-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 362 mg, Yield 62% | OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)OC(C1=C(C=CC=C1)C)=O)OC | C26H26N2O5
